US05034395
3.36 Grams of 1-[2(E)-acetoacetocymethylvinyl]-(4-(2-tetrahydropyranyloxy)benzene, 1.5 g of 3-nitrobenzaldehyde and 1.2 g of methyl 3-aminocrotonate were added to 20 ml of isopropanol, and the mixture was refluxed for 8 hours. The reaction mixture was concentrated and the residue was purified by means of a silica gel column chromatography (eluent: chloroform) to yield 1.2 g of methyl 3-(4-tetrahydropyranyloxyphenyl)-2(E)-propenyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate.

reactant | 4-(2-tetrahydropyranyloxy)benzene | O1C(CCCC1)OC1=CC=CC=C1 | C11H14O2
reactant | 3-nitrobenzaldehyde | 1.5 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | methyl 3-aminocrotonate | 1.2 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | methyl 3-(4-tetrahydropyranyloxyphenyl)-2(E)-propenyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate | 1.2 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC\C=C\C1=CC=C(C=C1)OC1OCCCC1)C | C30H32N2O8
